US06232290B1
A solution of 4-hydroxybenzoic acid methyl ester (100 g) and 1,6-dibromohexane (481 g) in N,N-dimethylformamide (500 ml) was treated with potassium carbonate (109 g) then heated at 60° C. for 2 hours. After cooling, the mixture was diluted with ethyl acetate (3 L) and washed with water (7×1 L). The organic layer was dried over magnesium sulfate, filtered, and evaporated to give a crude oil. Hexane (˜100 ml) was added and the resulting precipitate removed by filtration and discarded and the filtrate loaded onto a silica gel column (2 kg). Elution with hexane, followed by 9:1 hexane-ethyl acetate and 8:1 hexane-ethyl acetate afforded methyl 4-(6-bromo-n-hexyloxy)benzoate (186 g) as a white solid.

reactant | 4-hydroxybenzoic acid methyl ester | 100 g | COC(C1=CC=C(C=C1)O)=O | C8H8O3
reactant | 1,6-dibromohexane | 481 g | BrCCCCCCBr | C6H12Br2
reactant | potassium carbonate | 109 g | C([O-])([O-])=O.[K+].[K+]
reactant | Hexane | ˜100 ml | CCCCCC | C6H14
solvent | N,N-dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 3 L | C(C)(=O)OCC | C4H8O2
product | methyl 4-(6-bromo-n-hexyloxy)benzoate | 186 g | BrCCCCCCOC1=CC=C(C(=O)OC)C=C1 | C14H19BrO3
